US06576627B1
The 4-hydroxypiperidine-4-carboxylic acid (118 mg) obtained in the step (a) of Example 68 was dissolved in 1 N hydrochloric acid/ethanol (5 ml) solution, and the resulting solution was stirred at room temperature for 17 hours and then under reflux for 6 hours. The reaction mixture was concentrated to obtain crude ethyl 4-hydroxypiperidine-4-carboxylate. This crude ethyl 4-hydroxypiperidine-4-carboxylate was used in the following reaction without purification.

reactant | 4-hydroxypiperidine-4-carboxylic acid | 118 mg | OC1(CCNCC1)C(=O)O | C6H11NO3
reactant | hydrochloric acid ethanol | 1 N, 5 ml | Cl.C(C)O
product | ethyl 4-hydroxypiperidine-4-carboxylate | OC1(CCNCC1)C(=O)OCC | C8H15NO3
